US07829501B2
A mixture comprising 10.0 g of 3,4-dichlorobenzoyl chloride, 9.31 g of ethyl 2-bromoisobutyrate and 90 ml of anhydrous diethyl ether, was dropwise added to 3.12 g of zinc in a nitrogen atmosphere, followed by a reaction for 15 hours under reflux. The reaction mixture was filtered through celite, and the filtrate was washed with 20% sulfuric acid and then with water. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (developing solvent: ethyl acetate/n-hexane=1/19) to obtain 8.7 g of oily ethyl 2-(3′,4′-dichlorobenzoyl)isobutyrate. The NMR spectrum data of this product is as follows.

reactant | 3,4-dichlorobenzoyl chloride | 10.0 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
reactant | ethyl 2-bromoisobutyrate | 9.31 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
catalyst | zinc | 3.12 g | [Zn] | Zn
solvent | diethyl ether | 90 ml | C(C)OCC | C4H10O
product | ethyl 2-(3′,4′-dichlorobenzoyl)isobutyrate | 8.7 g | ClC=1C=C(C(=O)C(C(=O)OCC)(C)C)C=CC1Cl | C13H14Cl2O3
